US08420849B2
2-(4-Methoxyphenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (67 mL) solution of 2-(4-methoxyphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (6.67 g, 18.45 mmol, purity: 80%) was cooled to −16° C., and to this solution, a chloroform (13 mL) solution of sulfuryl chloride (1.78 mL, 1.2 equivalent amounts) was dropwise added over a period of 20 minutes, followed by stirring at −12° C. for 42 minutes. The temperature of the solution was raised to −3° C., and water (13 mL) was dropwise added over a period of 5 minutes, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was isolated and purified by silica gel column chromatography (eluent: hexane/ethyl acetate/chloroform=7.5/2.5/1 (v/v/v)) to give the desired product as a yellow solid (4.83 g, yield: 73%).

reactant | chloroform | 67 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-methoxyphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 18.45 mmol, 6.67 g | COC1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C13H14O3S
reactant | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 1.78 mL, 1.2 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 13 mL | O | H2O
product | 2-(4-Methoxyphenyl)-3-hydroxy-4-methylcarbonyl thiophene | 4.83 g, yield: 73% | COC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C13H12O3S
